US09290500B2
A mixture of 5-phenyl-1H-pyrazol-3-ylamine (501 mg, 3.15 mmol) and 3-oxobutanoic acid ethyl ester (0.433 mL, 3.39 mmol) in anhydrous toluene (2.9 mL) is heated at 120° C. in a sealed vial. After 2 hr, the reaction is cooled to room temperature. The precipitate is collected in a Buchner funnel and washed with hexanes to afford 5-methyl-2-phenylpyrazolo[1,5-a]pyrimidin-7(4H)-one (577 mg, yield 81%). LCMS: (AA) M+1 226; 1H NMR (400 MHz, DMSO) δ 12.35 (s, 1H), 8.01-7.92 (m, 2H), 7.49-7.43 (m, 2H), 7.42-7.37 (m, 1H), 6.57 (s, 1H), 5.60 (s, 1H), 2.29 (s, 3H).

reactant | 5-phenyl-1H-pyrazol-3-ylamine | 3.15 mmol, 501 mg | C1(=CC=CC=C1)C1=CC(=NN1)N | C9H9N3
reactant | 3-oxobutanoic acid ethyl ester | 3.39 mmol, 0.433 mL | C(C)OC(CC(C)=O)=O | C6H10O3
solvent | toluene | 2.9 mL | C1(=CC=CC=C1)C | C7H8
product | 5-methyl-2-phenylpyrazolo[1,5-a]pyrimidin-7(4H)-one | 577 mg, yield 81% | CC=1NC=2N(C(C1)=O)N=C(C2)C2=CC=CC=C2 | C13H11N3O
